US08119627B2
Piperidine-4-carboxylic acid [2-(2,4-dichloro-phenoxy)-phenyl]-amide HVB01079 C18H18Cl2N2O2, MW 365.25
4-[2-(2,4-Dichloro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester (AMR01046, 1.0 g, 2.15 mmol) was dissolved in DCM (20 ml), and cooled to 0° C. and to this was added TFA (5 ml). This was allowed to warm to room temperature and stirred for 30 min. The reaction mixture was poured onto solid potassium carbonate (12 g), and water (50 ml) added. Extracted with DCM and the organic layers dried over anhydrous magnesium sulphate, and evaporated in-vacuo, to afford a cream oil, 0.77 g, 98%. R.f. 0.2 (EtOAc) 1HNMR (CDCl3, 300 MHz) δ 1.72 (2H, m, CH2), 1.87 (2H, m, CH2), 2.39 (1H, m, CH), 2.68 (2H, td, J=2.7, 12.3 Hz, CH2), 3.16 (2H, dt, J=3.6, 7.2, 12.6 Hz, CH2), 6.66 (1H, dd, J=1.5, 8.1 Hz, ArH), 6.87 (1H, d, J=8.7 Hz, ArH), 6.94 (1H, td, J=1.8, 8.1 Hz, ArH), 7.07 (1H, td, J=1.2, 7.8 Hz, ArH), 7.15 (1H, dd, J=2.7, 9.0 Hz, ArH), 7.43 (1H, d, J=2.4 Hz, ArH), 8.34 (1H, dd, J=6.9 Hz, ArH).

reactant | 4-[2-(2,4-Dichloro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.15 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)OC1=C(C=C(C=C1)Cl)Cl)=O | C23H26Cl2N2O4
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Piperidine-4-carboxylic acid [2-(2,4-dichloro-phenoxy)-phenyl]-amide | ClC1=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=CC(=C1)Cl | C18H18Cl2N2O2
